US06518423B1
Diethyl 4-(methoxymethoxy)cyclohexane-1,1-dicarboxylate
12.3 g of diethyl 4-hydroxycyclohexane-1,1-dicarboxylate was dissolved in 160 ml of dichloromethane and 26.3 ml of diisopropylethylamine was added thereto followed by ice-cooling. Next, 9.6 ml of chloromethyl methyl ether was added thereto and the reaction mixture was stirred at room temperature for 15 hours. Then the reaction mixture was concentrated and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 11.10 g of the title compound as a colorless oily substance.

reactant | diethyl 4-hydroxycyclohexane-1,1-dicarboxylate | 12.3 g | OC1CCC(CC1)(C(=O)OCC)C(=O)OCC | C12H20O5
reactant | diisopropylethylamine | 26.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 9.6 ml | COCCl | C2H5ClO
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | Diethyl 4-(methoxymethoxy)cyclohexane-1,1-dicarboxylate | 11.10 g | COCOC1CCC(CC1)(C(=O)OCC)C(=O)OCC | C14H24O6
